US07262151B2
The first step in jasmonic acid biosynthesis is the formation of linoleic acid (Chemical Abstracts name: (Z,Z)-9,12-Octadecadienoic acid) and linolenic acid (Chemical Abstracts name: (Z,Z,Z)-9,12,15-Octadecatrienoic acid) from membrane lipid breakdown, catalysed by phospholipase. Linoleic and linolenic acid are converted to 13-hydroperoxylinolenic acid by the action of lipoxygenase. 13-hydroperoxylinolenic acid is converted into 12,13 expoxy-octadecatrienoic acid in the presence of allene oxide synthase (AOS), and then converted into 12-oxo-phytodienoic acid by allene oxide cyclase (AOC). Following reduction and three steps of β-oxidation, (+)-7-iso-jasmonic acid is formed.

reactant | linoleic acid | C(CCCCCCC\C=C/C\C=C/CCCCC)(=O)O | C18H32O2
reactant | linolenic acid | CC/C=C\C/C=C\C/C=C\CCCCCCCC(=O)O | C18H30O2
reactant | Linoleic | CCCCC/C=C\C/C=C\CCCCCCCC(=O)O | C18H32O2
reactant | 13-hydroperoxylinolenic acid | CC/C=C\C/C=C\C/C=C\CCCCCCCC(=O)OO | C18H30O3
reactant | allene oxide | C1C(=C)O1 | C3H4O
reactant | 12-oxo-phytodienoic acid | CC/C=C\C[C@H]1[C@H](C=CC1=O)CCCCCCCC(=O)O | C18H28O3
solvent | jasmonic acid | CC/C=C\C[C@@H]1[C@H](CCC1=O)CC(=O)O | C12H18O3
product | (+)-7-iso-jasmonic acid | CC/C=C\C[C@H]1[C@H](CCC1=O)CC(=O)O | C12H18O3
